US09029544B2
(3R,9S)-9-(tert-Butyldimethylsilyloxy)-7,7-dimethyl-4-(prop-1-en-2-yl)-3-(4-(trifluoromethyl)phenyl)-2′,3′,5′,6,6′,7,8,9-octahydro-3H-spiro[furo[3,4-c]quinoline-1,4′-pyran]
500 mg (3R,9S)-9-(tert-butyldimethylsilyloxy)-4-chloro-7,7-dimethyl-3-(4-(trifluoromethyl)phenyl)-2′,3′,5′,6,6′,7,8,9-octahydro-3H-spiro[furo[3,4-c]quinoline-1,4′-pyran] and 254 mg potassium isopropenyltrifluoroborate are dissolved in 3 ml tetrahydrofurane, 0.5 ml toluene and 3 ml of a 2 M solution of caesium carbonate in water. The mixture is purged for 15 minutes with argon. Then 42 mg 1,1′-bis-(diphenylphosphino)-ferrocene-dichloro-palladium-(II) complex with dichloromethane are added and the mixture is stirred for 72 hours at 100° C. The mixture is partitioned between water and dichloromethane. The aqueous phase is twice extracted with dichloromethane. The combined organic phases are dried with sodium sulphate and the solvents are evaporated in vacuo. The residue is chromatographed on silica gel (petrole ether/ethylacetate 100:0 to 90:10).

reactant | (3R,9S)-9-(tert-butyldimethylsilyloxy)-4-chloro-7,7-dimethyl-3-(4-(trifluoromethyl)phenyl)-2′,3′,5′,6,6′,7,8,9-octahydro-3H-spiro[furo[3,4-c]quinoline-1,4′-pyran] | 500 mg | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=2C3=C(C(=NC2CC(C1)(C)C)Cl)[C@H](OC31CCOCC1)C1=CC=C(C=C1)C(F)(F)F | C30H39ClF3NO3Si
reactant | potassium isopropenyltrifluoroborate | 254 mg | C(=C)(C)[B-](F)(F)F.[K+]
reactant | toluene | 0.5 ml | C1(=CC=CC=C1)C | C7H8
reactant | caesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | tetrahydrofurane | 3 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | (3R,9S)-9-(tert-Butyldimethylsilyloxy)-7,7-dimethyl-4-(prop-1-en-2-yl)-3-(4-(trifluoromethyl)phenyl)-2′,3′,5′,6,6′,7,8,9-octahydro-3H-spiro[furo[3,4-c]quinoline-1,4′-pyran] | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=2C3=C(C(=NC2CC(C1)(C)C)C(=C)C)[C@H](OC31CCOCC1)C1=CC=C(C=C1)C(F)(F)F | C33H44F3NO3Si
